US06573263B2
Analogously to Example 1, 530 mg (1.04 mmol) of 2-acetyl-N-{1-[3-(3,4-dimethoxybenzyl)-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl]propyl}-5-phenylpentanamide and 610 mg (4.00 mmol) of phosphorus oxychloride are reacted to give 7-(1-acetyl-4-phenylbutyl)-2-(3,4-dimethoxybenzyl)-5-ethylimidazo[5,1-f][1,2,4]triazin-4(3H)-one.

reactant | 2-acetyl-N-{1-[3-(3,4-dimethoxybenzyl)-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl]propyl}-5-phenylpentanamide | 1.04 mmol, 530 mg | C(C)(=O)C(C(=O)NC(CC)C=1C(NC(=NN1)CC1=CC(=C(C=C1)OC)OC)=O)CCCC1=CC=CC=C1 | C28H34N4O5
reactant | phosphorus oxychloride | 4.00 mmol, 610 mg | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 7-(1-acetyl-4-phenylbutyl)-2-(3,4-dimethoxybenzyl)-5-ethylimidazo[5,1-f][1,2,4]triazin-4(3H)-one | C(C)(=O)C(CCCC1=CC=CC=C1)C1=NC(=C2C(NC(=NN21)CC2=CC(=C(C=C2)OC)OC)=O)CC | C28H32N4O4
